US04425351
1. 3-[2-(N-(4-carboxy-4,4-dimethyl-1-oxobutyl)-N-methylamino)-ethyl]-indole
6.97 g of 3-(2-methylaminoethyl)-indole, 100 ml of dry benzene and 5.69 g of 2,2-dimethylglutaric anhydride are introduced at ambient temperature into a 250 ml round-bottomed flask provided with a condenser, a CaCl2 drying tube and a magnetic stirrer. The reaction mixture is heated slowly at the reflux temperature for 1 hour 30 minutes with stirring. It is then left to cool and to stand overnight at ambient temperature.

reactant | 3-(2-methylaminoethyl)-indole | 6.97 g | CNCCC1=CNC2=CC=CC=C12 | C11H14N2
reactant | 2,2-dimethylglutaric anhydride | 5.69 g | CC1(C(=O)OC(CC1)=O)C | C7H10O3
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-[2-(N-(4-carboxy-4,4-dimethyl-1-oxobutyl)-N-methylamino)-ethyl]-indole | C(=O)(O)C(CCC(=O)N(C)CCC1=CNC2=CC=CC=C12)(C)C | C18H24N2O3
